US04451471
42.0 g of the 2-bromo-2-phenyl-1-(3-pyridyl)-ethanone hydrobromide so obtained are dissolved, while stirring, in 500 ml of methanol (95% strength), the solution is cooled to 10° and, in the course of 5 minutes, 14.93 g of ammonium dithiocarbamate are added in portions. The mixture is cooled for a further 5 minutes, the ice-bath is removed, after 45 minutes again 14.93 g of ammonium dithiocarbamate are added and the mixture is then heated at the boil for 90 minutes and concentrated to dryness by evaporation. The residue obtained by concentration by evaporation is digested with 200 ml of water and 65 ml of 2 N sodium hydroxide solution, filtered with suction and washed with a little water. The product is dissolved in 100 ml of 2 N sodium hydroxide solution, filtered and acidified to pH 5 with 2 N hydrochloric acid. The precipitated crystals are filtered with suction, washed twice with a little ice-water, sucked dry, and then thoroughly washed twice with 30 ml of acetone each time and then twice with 50 ml of diethyl ether each time. 5-Phenyl-4-(3-pyridyl)-thiazoline-2-thione having a melting point of 229°-232° is obtained.

reactant | 2-bromo-2-phenyl-1-(3-pyridyl)-ethanone hydrobromide | 42.0 g | Br.BrC(C(=O)C=1C=NC=CC1)C1=CC=CC=C1
reactant | ammonium dithiocarbamate | 14.93 g | C(N)([S-])=S.[NH4+]
reactant | water | 200 ml | O | H2O
reactant | sodium hydroxide | 2 N, 65 ml | [OH-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | 5-Phenyl-4-(3-pyridyl)-thiazoline-2-thione | C1(=CC=CC=C1)C1C(=NC(S1)=S)C=1C=NC=CC1 | C14H10N2S2
